US07968573B2
A mixture of 3.0 g of ethyl 2-methoxyimino-5-methyl-4-oxohexanoate, 2.4 g of 3-chloro-2-hydrazinopyridine, 50 ml of tetrahydrofuran and 100 ml of acetic acid was stirred at room temperature for 20 hours, and then heated to reflux for 4 hours. The reaction mixture was concentrated under reduced pressure. Water was poured into the residue, and the mixture was extracted with methyl t-butyl ether two times. The combined organic layer was washed successively with a 1N aqueous sodium hydroxide solution, water and an aqueous saturated chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.07 g of ethyl 1-(3-chloro-2-pyridinyl)-3-isopropyl-1H-pyrazole-5-carboxylate of the formula:

reactant | ethyl 2-methoxyimino-5-methyl-4-oxohexanoate | 3.0 g | CON=C(C(=O)OCC)CC(C(C)C)=O | C10H17NO4
reactant | 3-chloro-2-hydrazinopyridine | 2.4 g | ClC=1C(=NC=CC1)NN | C5H6ClN3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | ethyl 1-(3-chloro-2-pyridinyl)-3-isopropyl-1H-pyrazole-5-carboxylate | 1.07 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OCC)C(C)C | C14H16ClN3O2
